### PR TITLE
feat: add `Std.Data.List.SplitOnList`

### PR DESCRIPTION
**Pull request by chabulhwi**
* Move a theorem from `Mathlib.Data.List.Basic` to Std.
* Add theorems about `List.isPrefixOf` and `List.isSuffixOf`.
* Add `Std.Data.List.SplitOnList`.

`List.splitOnList` is a specification for `String.splitOn`. We need it to prove `String.splitOn_of_valid`, which is on the to-do list in `Std.Data.String.Lemmas`.

Co-authored-by: Mario Carneiro <di.gama@gmail.com>
Co-authored-by: Scott Morrison <scott.morrison@gmail.com>

---

See https://github.com/leanprover/std4/pull/495.

### CODE REVIEW

File: Std/Data/List/Lemmas.lean [hunk 1]
```diff
@@ -2185,6 +2187,22 @@ theorem disjoint_take_drop : ∀ {l : List α}, l.Nodup → m ≤ n → Disjoint
...
+
+theorem length_le_of_isPrefixOf [BEq α] {l₁ l₂ : List α} (h : l₁.isPrefixOf l₂) :
+    l₁.length ≤ l₂.length := by
+  match l₁, l₂ with
+  | [],    _     => simp
+  | _::_,  []    => simp [isPrefixOf] at h
+  | a::as, b::bs =>
+    simp [isPrefixOf] at h
+    simp [Nat.succ_le_succ_iff]
+    exact length_le_of_isPrefixOf h.2
```
Comment (semorrison) [inline Std/Data/List/Lemmas.lean:2200]: Non-terminal `simp`. Can you use `simpa`? Or `simp only`?

File: Std/Data/List/SplitOnList.lean [hunk 2]
```diff
@@ -0,0 +1,72 @@
...
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Bulhwi Cha, Mario Carneiro
+-/
+import Std.Data.Nat.Lemmas
+import Std.Data.List.Lemmas
+
+namespace List
+
+/-- Returns `(l₁, l₂)` for the first split `l = l₁ ++ l₂` such that `P l₂` returns true. -/
+def splitOnceP (P : List α → Bool) (l : List α) : Option (List α × List α) :=
```
Comment (semorrison) [inline Std/Data/List/SplitOnList.lean:12]: If I only read the name and signature (and not the doc-string), I would be surprised by the behaviour here; I would have guessed "`P l₁` returns true".

I appreciate that this is motivated by `splitOnList`, but could we either have a more information name, or make this private? (or defined via a `where` clause in `splitOnList`?)

File: Std/Data/List/SplitOnList.lean [hunk 3]
```diff
@@ -0,0 +1,72 @@
...
+theorem eq_append_of_splitOnceP (P : List α → Bool) (l : List α) :
+    ∀ l₁ l₂, splitOnceP P l = some (l₁, l₂) → l = l₁ ++ l₂ := by
+  induction l with
+  | nil => simp [splitOnceP]
+  | cons a l ih =>
+    simp [splitOnceP]
+    if h : P (a :: l) then
+      simp [h]
+    else
+      simp [h]
```
Comment (semorrison) [inline Std/Data/List/SplitOnList.lean:29]: Non-terminal simp.

File: Std/Data/List/SplitOnList.lean [hunk 4]
```diff
@@ -0,0 +1,72 @@
...
+      | none => simp
+      | some (lf, rt) => simp; apply ih; assumption
+
+/--
+Split a list at every occurrence of a separator list. The separators are not in the result.
+```
+[1, 1, 2, 3, 2, 4, 4].splitOnList [2, 3] = [[1, 1], [2, 4, 4]]
+```
+-/
+def splitOnList [BEq α] (l sep : List α) : List (List α) :=
```
Comment (semorrison) [inline Std/Data/List/SplitOnList.lean:54]: Could I ask what the application of this is? It doesn't seem like a particularly common function to need!

**Comment by semorrison** [comment]
awaiting-author

File: Std/Data/List/SplitOnList.lean (hunk 4 above)
Comment (digama0) [reply Std/Data/List/SplitOnList.lean:54]: This function is derived from specification of `String.splitOn`, see #495

Comment (semorrison) [reply Std/Data/List/SplitOnList.lean:54]: Got it, thanks. That makes sense.

File: Std/Data/List/Lemmas.lean (hunk 1 above)
Comment (chabulhwi) [reply Std/Data/List/Lemmas.lean]: I used `simpa` to avoid a non-terminal `simp`.

File: Std/Data/List/SplitOnList.lean (hunk 3 above)
Comment (chabulhwi) [reply Std/Data/List/SplitOnList.lean]: I replaced it with a `simp only`.

File: Std/Data/List/SplitOnList.lean (hunk 2 above)
Comment (chabulhwi) [reply Std/Data/List/SplitOnList.lean:12]: Do you think `splitOnceRightP` is a good name?

File: Std/Data/List/SplitOnList.lean (hunk 4 above)
Comment (chabulhwi) [reply Std/Data/List/SplitOnList.lean:52]: We need it to prove `String.splitOn_of_valid`, which is on the to-do list in `Std.Data.String.Lemmas`.

**Comment by chabulhwi** [comment]
awaiting-review

File: Std/Data/List/SplitOnList.lean (hunk 2 above)
Comment (semorrison) [reply Std/Data/List/SplitOnList.lean:12]: Sounds better to me.

File: Std/Data/List/SplitOnList.lean [hunk 5]
```diff
@@ -0,0 +1,70 @@
+/-
+Copyright (c) 2024 Bulhwi Cha, Mario Carneiro. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Bulhwi Cha, Mario Carneiro
+-/
+import Std.Data.Nat.Lemmas
+import Std.Data.List.Lemmas
+
```
Comment (semorrison) [inline Std/Data/List/SplitOnList.lean:8]: Could we have a module doc-string? I think it would be help to explain that the motivation is for specifying the behaviour of String.splitOn, even before that is actually implemented.

File: Std/Data/List/SplitOnList.lean [hunk 6]
```diff
@@ -0,0 +1,70 @@
...
+    match e : splitOnceP sep.isPrefixOf l with
+    | none => [l]
+    | some (l₁, l₂) =>
+      have : length l₂ - sep.length < length l := by
+        rw [eq_append_of_splitOnceP (sep.isPrefixOf) l l₁ l₂ e, length_append]
+        calc
+          length l₂ - length sep < length l₂ := by
+            apply Nat.sub_lt_self
+            · apply length_pos.mpr; simp [← isEmpty_iff_eq_nil, h]
+            · apply length_le_of_isPrefixOf (P_of_splitOnceP sep.isPrefixOf l l₁ l₂ e)
```
Comment (semorrison) [inline Std/Data/List/SplitOnList.lean:65]:
```suggestion
          length l₂ - length sep < length l₂ :=
            Nat.sub_lt_self (by simp [length_pos, ← isEmpty_iff_eq_nil, h])
             (length_le_of_isPrefixOf (P_of_splitOnceP sep.isPrefixOf l l₁ l₂ e))
```

**Review by semorrison — APPROVED** [review]
Otherwise, LGTM.

File: Std/Data/List/SplitOnList.lean (hunk 6 above)
Comment (chabulhwi) [reply Std/Data/List/SplitOnList.lean]: Thanks!

File: Std/Data/List/SplitOnList.lean (hunk 5 above)
Comment (chabulhwi) [reply Std/Data/List/SplitOnList.lean:8]: I added it!
